US07459448B2
9-Chloro-2-[4-(3-hydroxy-prop-1-ynyl)-phenylamino]-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-54)
In a manner similar to that described for Method O, 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-36) and prop-2-yn-1-ol were converted to I-54 (86%): HRMS Calcd. for C21H15ClN4O2: 391.0961, Found 391.0960.

reactant | 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)I)=O)C1 | C18H12ClIN4O
reactant | prop-2-yn-1-ol | C(C#C)O | C3H4O
product | 9-Chloro-2-[4-(3-hydroxy-prop-1-ynyl)-phenylamino]-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)C#CCO)=O)C1 | C21H15ClN4O2
